US07326791B2
(c) 3-chloro-N-[(1S)-1-(6-chloro-1H-benzimidazol-2-yl)ethyl]-4-(pyrrolidin-1-ylsulfonyl)benzamide
Prepared analogously to Example 1g from 3-chloro-4-(pyrrolidin-1-ylsulfonyl)benzoic acid, TBTU, diisopropylethylamine, and (1S)-1-(6-chloro-1H-benzimidazol-2-yl)ethylamine in dimethylformamide. Yield: 50%; Rf value: 0.57 (silica gel; ethyl acetate); C20H20Cl2N4O3S (467.38); mass spectrum: (M+H)+=467/469/471 (chlorine isotope).

reactant | 3-chloro-4-(pyrrolidin-1-ylsulfonyl)benzoic acid | ClC=1C=C(C(=O)O)C=CC1S(=O)(=O)N1CCCC1 | C11H12ClNO4S
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (1S)-1-(6-chloro-1H-benzimidazol-2-yl)ethylamine | ClC=1C=CC2=C(NC(=N2)[C@H](C)N)C1 | C9H10ClN3
reactant | chlorine | ClCl | Cl2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-chloro-N-[(1S)-1-(6-chloro-1H-benzimidazol-2-yl)ethyl]-4-(pyrrolidin-1-ylsulfonyl)benzamide | Yield: 50% | ClC=1C=C(C(=O)N[C@@H](C)C2=NC3=C(N2)C=C(C=C3)Cl)C=CC1S(=O)(=O)N1CCCC1 | C20H20Cl2N4O3S
